US09388189B2
(S)—N-(3-((4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)phenyl)methanesulfonamide
(S)—N-(3-((4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)phenyl)methanesulfonamide (10 mg, 0.01 mmol) was treated with trifluoroacetic acid (1 ml, 14 mmol) and a solution of ammonia (7N in methanol, 1 ml, 59 mmol) according to the method described in Example 27 to give 3 mg (37% yield) of the title compound as a white solid. Purity 99%.

reactant | (S)—N-(3-((4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)phenyl)methanesulfonamide | 0.01 mmol, 10 mg | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1SC=1C=C(C=CC1)NS(=O)(=O)C)COCC[Si](C)(C)C | C34H40N8O4S2Si
reactant | trifluoroacetic acid | 14 mmol, 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 59 mmol, 7N, 1 ml | N | H3N
product | (S)—N-(3-((4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)phenyl)methanesulfonamide | 3 mg, 37% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)NC=C1SC=1C=C(C=CC1)NS(=O)(=O)C | C28H26N8O3S2
